### PR TITLE
feat: add a group presentation of the `DihedralGroup n`

### PR DESCRIPTION
**Pull request by newell**
Add group presentation $\< a, b\ |\ a ^ 2 = 1, b ^ 2 = 1, (a * b) ^ n = 1 \>$ for `DihedralGroup n`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/SpecificGroups/PresentedDihedral.lean [hunk 1]
```diff
@@ -0,0 +1,231 @@
...
+
+lemma map_mul' : ∀ a b : DihedralGroup n, GenMapInv (a * b) = GenMapInv a * GenMapInv b := by
+  intro d₁ d₂
+  simp only [GenMapInv]
+  rcases d₁ with i | j
+  · rcases d₂ with k | l
+    · simp only [r_mul_r]
+      exact powLaw1
+    · simp only [r_mul_sr]
+      sorry
```
Comment (kbuzzard) [inline Mathlib/GroupTheory/SpecificGroups/PresentedDihedral.lean:170]: You need some intermediate lemma saying `(ab)^i*a=a*(ab)^{-i}`.

File: Mathlib/GroupTheory/SpecificGroups/PresentedDihedral.lean [hunk 2]
```diff
@@ -0,0 +1,231 @@
...
+    simp only [map_mul, ZMod.int_cast_cast, ZMod.cast_id', id_eq] at h1
+    assumption
+  · rw [dihedralGroupHom2]
+    have h1 := @a_a_b_relsGenMapOf_pow n i
+    simp only [map_mul, map_zpow]
+    simp only [map_mul, map_zpow, ZMod.int_cast_cast, ZMod.cast_id', id_eq] at h1
+    assumption
+
+theorem leftInverseHoms : Function.LeftInverse (@dihedralGroupHom n) (@presentedGroupHom n) := by
+  intro pd
```
Comment (kbuzzard) [inline Mathlib/GroupTheory/SpecificGroups/PresentedDihedral.lean:217]: This is a bad move. Just check the claim on the generators rather than an arbitrary element of the presented group.

File: Mathlib/GroupTheory/SpecificGroups/PresentedDihedral.lean [hunk 3]
```diff
@@ -0,0 +1,231 @@
...
+* https://en.wikipedia.org/wiki/Presentation_of_a_group
+
+## Tags
+presentation group, dihedral group
+-/
+
+
+variable {n : ℕ}
+
+inductive Generator (n : ℕ)
```
[the remark this answers is not in the document]
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/PresentedDihedral.lean:35]: Are you referring to the inductive definition?  I was following what was already in Mathlib since the `DihedralGroup` definition is in the root namespace as well.

File: Mathlib/GroupTheory/SpecificGroups/PresentedDihedral.lean (hunk 2 above)
Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/PresentedDihedral.lean:217]: This is the part I am not fully understanding.  Is there a rough sketch/example that you can give me and how it would plug in to other parts of the code?

Comment (newell) [reply Mathlib/GroupTheory/SpecificGroups/PresentedDihedral.lean:217]: I am currently updating branch with the presentation that you mentioned.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
